US07129360B2
A mixture of 2-methoxypyridine (23.2 g) and diisopropylamine (1.35 mL) in THF (223 mL) was added to (trimethylsilylmethyl)lithium (218 mL, 13.8 weight percent in hexanes) at −20° C. The lithiation was 84% complete after 7 hours. Tri-isopropylborate (40.8 g) was added at 20° C. over 40 minutes. The mixture was stirred overnight at ambient temperature. 5 percent NaOH (aq, 225 mL) was added. The aqueous layer was removed and brought to pH 5 by adding 10% HCl (aq). The resulting white precipitate was isolated by filtration. After drying, 22.23 g of 2-methoxypyridine-3-boronic acid was obtained (68% yield).

reactant | 2-methoxypyridine | 23.2 g | COC1=NC=CC=C1 | C6H7NO
reactant | diisopropylamine | 1.35 mL | C(C)(C)NC(C)C | C6H15N
reactant | (trimethylsilylmethyl)lithium | 218 mL | C[Si](C)(C)C[Li]
reactant | Tri-isopropylborate | 40.8 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | NaOH | 225 mL | [OH-].[Na+]
solvent | THF | 223 mL | C1CCOC1 | C4H8O
product | 2-methoxypyridine-3-boronic acid | 22.23 g, 68% yield | COC1=NC=CC=C1B(O)O | C6H8BNO3
